US05599815
(b) 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-2(1H)-quinolinone
3-(1-piperazinyl)-1,2-benzisothiazole (0.44 g, 2.0 mmoles), 1-(4-bromobutyl)-2(1H)-quinolinone (0.56 g, 2.0 mmoles) and potassium carbonate (0.33 g, 2.4 mmoles) were suspended in 4 ml of dimethylformamide, and the mixture was stirred at room temperature for 12 hours. Insolubles were removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by chromatography on a silica gel column to give 0.68 g (yield 80%) of the title compound as an oil.

reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | 2.0 mmoles, 0.44 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | 1-(4-bromobutyl)-2(1H)-quinolinone | 2.0 mmoles, 0.56 g | BrCCCCN1C(C=CC2=CC=CC=C12)=O | C13H14BrNO
reactant | potassium carbonate | 2.4 mmoles, 0.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-2(1H)-quinolinone | 0.68 g, yield 80% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(C=CC1=CC=CC=C21)=O | C24H26N4OS
